US04120864
To a solution of 3-mercapto-4-n-butyl-1,2,4-triazole (10 g. or 0.063 mole) and sodium hydroxide (2.55 g. or 0.0637 mole) in 200 ml. of methanol was added α-bromo-p-methoxyacetophenone (15.3 g. or 0.067 mole). The reaction mixture was heated at reflux for 16 hours and the solvent removed in vacuum to leave a solid residue. The solid was washed with water and recrystallized from benzene-hexane to give 3-(p-methoxy-phenacylmercapto)-4-n-butyl-1,2,4-triazole melting at 79°-82° C. The structure was confirmed by its infrared and nuclear magnetic spectra.

reactant | 3-mercapto-4-n-butyl-1,2,4-triazole | 0.063 mole, 10 g | SC1=NN=CN1CCCC | C6H11N3S
reactant | sodium hydroxide | 0.0637 mole, 2.55 g | [OH-].[Na+]
reactant | α-bromo-p-methoxyacetophenone | 0.067 mole, 15.3 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | methanol | CO | CH4O
product | 3-(p-methoxy-phenacylmercapto)-4-n-butyl-1,2,4-triazole | COC1=CC=C(C(CSC2=NN=CN2CCCC)=O)C=C1 | C15H19N3O2S
